2140-06-16 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ECHO showed mildly dilated LV, EF20% w/ global hypokinesis, apex
   scarred and diskinetic. Mild pulmonary artery hypertension.
   - Cardiac cath showed severe three vessel CAD and possible acute distal
   occlusion of the OMB2 but a very small territory of occlusion. Possible
   continued infarction. No stent placed. Previous stent in LAD now
   occluded, proximal LAD occlusion, 1^st diagonal 80% occluded,
   circumflex 70% occluded. Right collaterals to supply left.
   - Continued on bivalirudin drip given possible continued infarction and
   ?heparin allergy.
   - Obtained two peripheral IVs.
   - Pulled groin line.
   - 18:21 ABG showed pH 7.49.  RR slowed, ABG repeated.
   - 2:30 AM 7.43/37/132/24.  Vent changed to FiO2 49%, PEEP 10, Vt 450
   Allergies:
   Heparin Agents - Bleeding
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Bivalurudin
 0.8
   Other ICU medications:
   Midazolam (Versed) - [**2140-6-16**] 04:45 AM
   Fentanyl - [**2140-6-16**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-16**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 83 (76 - 95) bpm
   BP: 113/73(82) {89/62(69) - 128/91(98)} mmHg
   RR: 16 (11 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,413 mL
                                                                    207 mL
   PO:
             TF:
   IVF:
                                                                  1,263 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    235 mL
   Urine:
                                                                  1,115 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -202 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/30/181/22/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 302
   Physical Examination
   GENERAL: WDWN, lying intubated, grimace to sternal rub.
   HEENT: NCAT. Sclera anicteric. PERRL. Conjunctiva were pink.  No
   xanthalesma.
   NECK: Thick, intubated, difficult to appreciate JVP w/ beard.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Distant heart sounds. Tachycardic, regular, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: Slight central rhochi, otherwise clear to anterior exam.
   Improved from last night.
   ABDOMEN: Soft, slightly distended. No HSM. No abdominal bruits.
   EXTREMITIES: No femoral bruits.  Cath site clean and dry, fem line site
   clean and dry
   SKIN: Small, dry 2cm ulcer on right big toe.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Left: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Labs / Radiology
   418 K/uL
   195 mg/dL
   2.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   24 mg/dL
   100 mEq/L
   135
   39.1
   15.4 K/uL
                             [**2140-6-15**]  01:55 PM
                             [**2140-6-15**]  05:28 PM
                             [**2140-6-15**]  06:21 PM
                             [**2140-6-15**]  10:09 PM
                             [**2140-6-15**]  11:51 PM
                                  [**2140-6-16**]
                                   4:00 AM
   WBC
   19.8
   15.4
   Hct
   42.6
   45
   39.1
   Plt
   422
   451
   418
   Cr
   2.1
   2.6
   TropT
   2.31
   3.69
   TCO2
   23
   23
   Glucose
   245
   195
   Other labs: PT / PTT / INR:15.4/37/1.4, CK / CKMB /
   Troponin-T:436/39/3.69, D-dimer:2888 ng/mL, Fibrinogen:601 mg/dL,
   Lactic Acid:1.6 mmol/L  ABG:
   Assessment and Plan
   59 M with htn, hyperlipidemia, CM, CAD, CHF, CRI, h/o stroke and
   psychiatric issues presents for follow up.
   .
   # Loss of Consciousness: Most likely hypoperfusion due to ischemic
   heart failure, though other possibilities include acute CVA, vaso vagal
   episode and hypoxia due to respiratory failure.  Seizure unlikely.
   - Evaluate cardiac function as below.
   - Lower sedation in AM to fully assess mental status.
   .
   # CORONARIES: Multiple prior MIs, with rising troponins after
   diaphoresis and loss of consciousness, without ECG changes of ischemia,
   most consistent with NSTEMI.  Cardiac cath did not show any
   intervenable lesions.  Was previously on Aspirin, Toprol-XL, Lipitor,
   Imdur and lisinopril, though he was only taking ASA, Imdur and Toprol.
   - Went to cardiac cath for diagnosis, acute thrombus found but will be
   medically  managed. No stent placed.
   - Given ASA 600mg PR, then 325mg PO daily.
   - On bivalirudin gtt because of a heparin allergy. Will continue gtt
   for 48hrs.
   - Given 600mg Plavix load, to be continued on 75mg daily.
   - Restart beta blocker at lower dose and titrate up.
   - Restart lisinopril as tolerated
   - ?CABG candidacy, will discuss further w/ attendings
   .
   # Dyspnea: Most likely pulmonary edema in the setting of myocardial
   ischemia and hypertensive urgency.  Lungs sound improved this morning
   with lower BPs and anticoagulation.  Lung exam much improved this
   morning and is requiring less aggressive vent settings.
   - Diuresis slow overnight, but has improved with higher BPs. I/O goal
   of -500cc today. Will recheck Cr this afternoon.
   - Tolerating lower vent settings, will continue to wean while following
   ABGs.
   - If tolerates lower PEEP, can wean to pressure support ventilation.
   - Follow ARDS protocol vent settings.
   - Follow serial ABGs. ? A line placement.
   - Obtain sputum cultures
   - Received one dose of broad spectrum abx in CCU, now holding b/c there
   are not signs of infection.
   .
   # PUMP: EF of 20%, mild LV dilation, global hypokinesis and regional
   akinesis on TEE.  BNP is lower than on previous admissions, suggesting
   that he may not have acutely elevated atrial pressures. Overall
   concerning for ischemic worsening of already poor systolic function.
   - goal -500cc to 1L today. Continue Lasix gtt.
   - [**Hospital1 **] electrolytes and daily weights.
   .
   # RHYTHM: In sinus tachycardia. Will need beta-blocker for prevention
   of post-MI arrhythmias.
   .
   # DM.  Followed by [**Last Name (un) 294**], with poor compliance, though patient was
   apparently still taking his insulin at home.
   - FS QACHS with humalog sliding scale.
   - HbA1c
   .
   # Hypertension.  Slightly hypotensive overnight in the setting of
   NSTEMI.  Now improving, and will most likely become hypertensive soon.
   - restart metoprolol on return from cath.  Restart Imdur this morning.
   - restart lisinopril as tolerated
   - hold amlodipine in peri MI setting.
   .
   # Hyperlipidemia: unclear level of control, was not taking high-dose
   statin prior to admission.
   - Restart Atorvastatin 80mg Qdaily
   - Check HDL, LDL, total cholesterol.
   .
   #  Respiratory Failure: Arrived in hypoxemic respiratory failure.
   Exact etiology unclear but may be due to flash pulmonary edema in the
   setting of cardiac ischemia.  No e/o massive PE or infection to explain
   large A-a gradient.  Started on ARDS protocol.
   - Continue mechanical ventilation
   - Diurese as able with Lasix gtt
   - Daily breathing trials, RSBI, VAP bundle
   - Monitor ABGs, check upon arrival to CCU
   .
   # CRI: Cr bumped up in the setting of diuresis and CTA dye load, now
   2.6 from baseline of 1.6.
   - Urine lytes, culture
   - Mucomyst PO x 2 doses
   - diurese for now, monitor Cr closely
   - renally dose medications.
   .
   #  Respiratory Acidosis: Due to hypoventilation in the setting of
   respiratory failure.  Improving with ventilation.
   - Trend ABGs, ? A-line
   .
   #  +Anion Gap Metabolic Acidsosis.  Lactic Acidosis.
   - Resolved upon admission to CCU, monitor
   .
   #  Elevated Troponin: Most likely due to NSTEMI and acute plaque
   rupture.  Other possibilities include hypertensive emergency or
   decompensated CHF.  Continue to trend.
   .
   # Leukocytosis: Patient has been afebrile and does not report any
   recent sick contacts per family.  Leucocytosis likely a stress response
   to NSTEMI, as it is now trending down.
   - Hold antibiotics unless further evidence of PNA
   - Trend leukocytosis; culture as symptoms localize
   .
   # Thrombocytosis: Likely reactive.
   - Trend, improved on repeat labs
   .
   # Hyponatremia: Most likely fluid overload given flash pulmonary edema,
   poor Lasix compliance and LE edema.
   - Diurese as above, trend
   - Send urine lytes, FeUrea
   .
   FEN: Hypervolemic / replete PRN / Diabetic tubefeeds ordered
   .
   ACCESS: 3 peripheral IV
   .
   PROPHYLAXIS:
   -DVT ppx with Bivalirudin
   -Pain management with Fentanyl gtt
   -Bowel regimen with colace / senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-6-15**] 09:17 PM
   18 Gauge - [**2140-6-15**] 10:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  [**First Name8 (NamePattern2) 1063**] [**Known lastname **] (daughter and power of attorney)
   [**Telephone/Fax (1) 7185**], [**Location (un) 132**] (caregiver) [**Telephone/Fax (1) 7186**]
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   s/p MI - cath showing 3 vd but not readily amenable to
   revascularization
   intubated and being diuresed for volume overload and elevated filling
   pressures
   Plan is to continue to diurese and eventually extubate
   ultimately will need to discuss ICD candidacy
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2140-6-16**] 17:12 ------

2140-06-17 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2140-6-16**]:
   - Particularly agitated ~8-9pm whenever nursing tried to touch him/move
   him/provide mouth care. Sedation increased, Fentanyl 75-->100, Versed
   1-->2 without effect. Given 1 mg Ativan X1 w/ good effect.
   - PTT 56.3 at noon, BiVal increased from 0.08 to 0.09 w/ PTT range
   60-65 (goal)
   - I/Os -1.5L at 11 pm, Lasix gtt decreased from 10-->5-->2.5 mg
   - Metoprolol increased to 37.5 TID w/o issues
   - Pt did not tolerate PS for >15 minutes. PEEP successfully weaned to 5
   w/ nl ABGs
   - ULytes showed FeUREA 23.45% suggestive of prerenal etiology
   (ischemia)
   - Medications renally dosed, Cr 2.6-->2.4
   - Pt a candidate for CABG? Await [**Doctor First Name 7205**] recs
   - CE trended down
   CXR: mild interstitial pulmonary edema much better. ETT 4.6cm above
   carina, NGT in place. Moderate pleural effusion increased, small left
   pleural effusion increased. Large LLL atelectasis, no PTX
   - Pt started on home Humalog 75/25 at 70AM/60PM
   - Chol panel: Chol197, TG120, HDL33, LDL140
   - LFT: ALT22, AST51, CK302, Alkphos96, Tbili0.7, Lipase 54
 ARTERIAL LINE - START [**2140-6-16**] 09:00 AM
   Allergies:
   Heparin Agents
   Bleeding;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Bivalirudin (Angiomax) - 0.11 mg/Kg/hour
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-6-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-17**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 97 (77 - 99) bpm
   BP: 117/63(80) {102/60(72) - 165/98(114)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.4 kg (admission): 98.1 kg
   Height: 72 Inch
             Total In:
                                                                  1,584 mL
                                                                    369 mL
   PO:
             TF:
                                                                    240 mL
   IVF:
                                                                  1,014 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    435 mL
   Urine:
                                                                  3,155 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,571 mL
                                                                    -66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 291 (291 - 291) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 12 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/33/134/26/-1
   Ve: 7.8 L/min
   PaO2 / FiO2: 268
   Physical Examination
   GENERAL: WDWN, lying intubated, grimace to sternal rub.
   HEENT: NCAT. Sclera anicteric. PERRL. Conjunctiva were pink.  No
   xanthalesma.
   NECK: Thick, intubated, difficult to appreciate JVP w/ beard.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Distant heart sounds. Tachycardic, regular, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: Slight central rhochi, otherwise clear to anterior exam.
   Improved from last night.
   ABDOMEN: Soft, slightly distended. No HSM. No abdominal bruits.
   EXTREMITIES: No femoral bruits.  Cath site clean and dry, fem line site
   clean and dry
   SKIN: Small, dry 2cm ulcer on right big toe.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Left: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Labs / Radiology
   391 K/uL
   12.7 g/dL
   166 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   100 mEq/L
   136 mEq/L
   37.5 %
   12.5 K/uL
        [image002.jpg]
                             [**2140-6-16**]  02:46 AM
                             [**2140-6-16**]  04:25 AM
                             [**2140-6-16**]  08:20 AM
                             [**2140-6-16**]  12:17 PM
                             [**2140-6-16**]  12:39 PM
                             [**2140-6-16**]  03:15 PM
                             [**2140-6-16**]  05:29 PM
                             [**2140-6-16**]  09:59 PM
                             [**2140-6-17**]  03:59 AM
                             [**2140-6-17**]  04:08 AM
   WBC
   16.7
   12.5
   Hct
   39.1
   37.5
   Plt
   418
   391
   Cr
   2.6
   2.4
   2.1
   TropT
   4.46
   TCO2
   24
   26
   28
   28
   27
   25
   22
   Glucose
   195
   169
   163
   171
   166
   Other labs: PT / PTT / INR:19.1/54.8/1.7, CK / CKMB /
   Troponin-T:274/12/4.46, ALT / AST:22/35, Alk Phos / T Bili:94/0.8,
   D-dimer:2888 ng/mL, Fibrinogen:601 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Total chol 197  TG 120  HDL 33   LDL 140
   HbA1c: 9.9
   MICRO: sputum gram stain: >25 PMN, <10 epithelial, 1+ GPC in pairs and
   clusters, cx P
   CXR: improved pulm edema, b/l pleural effusions
   Assessment and Plan
    59 M with htn, hyperlipidemia, CM, CAD, CHF, CRI, h/o stroke and
   psychiatric issues presents for follow up.
   .
   .
   # CORONARIES: Multiple prior MIs, with rising troponins after
   diaphoresis and loss of consciousness, without ECG changes of ischemia,
   most consistent with NSTEMI.  Cardiac cath did not show any
   intervenable lesions.  Was previously on Aspirin, Toprol-XL, Lipitor,
   Imdur and lisinopril, though he was only taking ASA, Imdur and Toprol.
   - Went to cardiac cath for diagnosis, acute thrombus found but will be
   medically  managed. No stent placed.
   - Cont ASA 325mg PO daily.
   - On bivalirudin gtt because of a heparin allergy. Will continue gtt
   for 48hrs. (D/C at noon today)
   - Given 600mg Plavix load, to be continued on 75mg daily.
   - Uptitrate metoprolol to 50 mg TID.
   - Restart lisinopril as tolerated
   - not a good CABG candidate (poor distal bypass points)
   .
   # Loss of Consciousness: Most likely hypoperfusion due to ischemic
   heart failure, although vasovagal also possible
   - Did not tolerate decreased sedation, becomes agitated and combative,
   will try again today
   .
   # Dyspnea: Most likely pulmonary edema in the setting of myocardial
   ischemia and hypertensive urgency.  Lung exam much improved this
   morning and is requiring less aggressive vent settings.
   - Cont Lasix gtt, responded well overnight
   - Tolerating lower vent settings with PEEP 5, good oxygenation, will
   continue to wean while following ABGs.
   - decrease sedation to see if RR improves
   - control BP to prevent flash pulm edema during extubation (will not
   extubate today)
   - sputum cultures show 1+ GPC, sputum and blood cultures pending
   - Received one dose of broad spectrum abx in CCU, now holding b/c there
   are not signs of infection.
   .
   # PUMP: EF of 20%, mild LV dilation, global hypokinesis and regional
   akinesis on TEE.  BNP is lower than on previous admissions, suggesting
   that he may not have acutely elevated atrial pressures. Overall
   concerning for ischemic worsening of already poor systolic function.
   CXR today looks improved, but still with bilateral pleural effusions.
   - goal - 1L to 1.5 today. Continue Lasix gtt.
   - [**Hospital1 **] electrolytes and daily weights.
   .
   # RHYTHM: In sinus tachycardia. Will need beta-blocker for prevention
   of post-MI arrhythmias.
   .
   # DM.  Followed by [**Last Name (un) 294**], with poor compliance, though patient was
   apparently still taking his insulin at home.
   - adjust home Humalog 75/25 at 70AM/60PM for improved control
   - FS QACHS with humalog sliding scale.
   - HbA1c 9.9
   .
   # Hypertension.  Slightly hypotensive overnight in the setting of
   NSTEMI.  Now improving, and will most likely become hypertensive soon.
   - uptitrate metoprolol to 50 mg QID
   - Cont Imdur
   - restart lisinopril as tolerated
   - restart amlodipine
   ..
   # Hyperlipidemia: poorly controlled, was not taking high-dose statin
   prior to admission.
   - Restart Atorvastatin 80mg Qdaily
   .
   # CRI: Cr bumped up in the setting of diuresis and CTA dye load, now
   trending down to 2.4 with baseline of 1.6.
   - Urine lytes show pre-renal etiology in setting of ischemia, urine cx
   negative
   - diurese for now, monitor Cr closely
   - renally dosed medications.
   - avoid Ativan
   .
   #  Acid/Base: Respiratory Acidosis: Due to hypoventilation in the
   setting of respiratory failure.  Improving with ventilation.
   - Trend ABGs.
   #  +Anion Gap Metabolic Acidsosis.  Lactic Acidosis.
   - Resolved upon admission to CCU, monitor
   .
   #  Elevated Troponin: Most likely due to NSTEMI and acute plaque
   rupture.  Other possibilities include hypertensive emergency or
   decompensated CHF.
   .
   # Leukocytosis: Patient has been afebrile and does not report any
   recent sick contacts per family.  Leucocytosis likely a stress response
   to NSTEMI, as it is now trending down.
   - Hold antibiotics unless further evidence of PNA
   - Trend leukocytosis; culture as symptoms localize
   .
   # Thrombocytosis: Likely reactive.
   - Trend, improved on repeat labs
   .
   # Hyponatremia: Most likely fluid overload given flash pulmonary edema,
   poor Lasix compliance and LE edema.
   - Diurese as above, trend
   .
   FEN: Hypervolemic / replete PRN / Diabetic tubefeeds ordered
   .
   ACCESS: 3 peripheral IV
   .
   PROPHYLAXIS:
   -DVT ppx with Bivalirudin
   -Pain management with Fentanyl gtt
   -Bowel regimen with colace / senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-6-15**] 09:17 PM
   18 Gauge - [**2140-6-15**] 10:17 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  [**First Name8 (NamePattern2) 1063**] [**Known lastname **] (daughter and power of attorney)
   [**Telephone/Fax (1) 7185**], [**Location (un) 132**] (caregiver) [**Telephone/Fax (1) 7186**]
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   remains intubated
   being managed for acute systolic heart failure with iv diuretics
   continue diuresis goals
   nothing to revascularize at this point
   ultimately can consider an ICD if within the wishes of the patient
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2140-6-17**] 12:47 ------

2140-06-18 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-17**]:
   - sputum cx neg
   - uptitrated metoprolol from 50 to 75 QID
   - extubated!!
   - required nitro gtt pre-extubation to maintain SBP<140
   - post-extubation controlled BP w/ nitro gtt at 4 mcg/kg/min, IV
   Lopressor and IV hydralazine
   - combative and agitated, gave Haldol IV 5 mg
   Allergies:
   Heparin Agents
   Bleeding;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Nitroglycerin - 3 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2140-6-17**] 08:00 PM
   Hydralazine - [**2140-6-18**] 06:14 AM
   Metoprolol - [**2140-6-18**] 06:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-18**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 108 (77 - 124) bpm
   BP: 137/74(91) {86/56(64) - 200/97(131)} mmHg
   RR: 18 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.2 kg (admission): 98.1 kg
   Height: 72 Inch
             Total In:
                                                                  1,457 mL
                                                                    710 mL
   PO:
             TF:
   IVF:
                                                                  1,277 mL
                                                                    710 mL
   Blood products:
   Total out:
                                                                  3,461 mL
                                                                    570 mL
   Urine:
                                                                  3,461 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,004 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 610 (610 - 610) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 5 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.45/42/160/26/5
   Ve: 12.1 L/min
   PaO2 / FiO2: 400
   Physical Examination
   GENERAL: WDWN, awake, slightly agitated but in NAD.
   HEENT: NCAT. Sclera anicteric. Conjunctiva pink.  No xanthalesma.
   NECK: Thick, difficult to appreciate JVP w/ beard.
   CARDIAC: Distant heart sounds. Tachycardic, regular, normal S1, S2 with
   S4 loudest at RUSB. No m/r/g. No thrills.
   LUNGS: Slight expiratory rhochi, otherwise clear to anterior exam.
   ABDOMEN: Soft, slightly distended. No HSM. No abdominal bruits.
   EXTREMITIES: No femoral bruits.  Cath site clean and dry, fem line site
   clean and dry
   SKIN: Small, dry 2cm ulcer on right big toe.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Left: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Labs / Radiology
   507 K/uL
   13.3 g/dL
   64 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   100 mEq/L
   138 mEq/L
   39.9 %
   16.7 K/uL
        [image002.jpg]
                             [**2140-6-16**]  03:15 PM
                             [**2140-6-16**]  05:29 PM
                             [**2140-6-16**]  09:59 PM
                             [**2140-6-17**]  03:59 AM
                             [**2140-6-17**]  04:08 AM
                             [**2140-6-17**]  02:21 PM
                             [**2140-6-17**]  02:46 PM
                             [**2140-6-17**]  03:33 PM
                             [**2140-6-17**]  04:51 PM
                             [**2140-6-18**]  04:55 AM
   WBC
   12.5
   13.8
   16.7
   Hct
   37.5
   38.3
   39.9
   Plt
   391
   432
   507
   Cr
   2.1
   1.9
   1.8
   TCO2
   28
   27
   25
   22
   30
   32
   30
   Glucose
   171
   166
   86
   64
   Other labs: PT / PTT / INR:13.7/29.3/1.2, CK / CKMB /
   Troponin-T:274/12/4.46, ALT / AST:22/35, Alk Phos / T Bili:94/0.8,
   D-dimer:2888 ng/mL, Fibrinogen:601 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   59 M with htn, hyperlipidemia, CM, CAD, CHF, CRI, h/o stroke and
   psychiatric issues presents for follow up.
   .
   # CORONARIES: Negative ECG but positive enzymes, consistent w/ NSTEMI.
   Cardiac cath w/o intervenable lesions but diffuse 3VD.  Not a good CABG
   candidate b/c of poor distal bypass points.  Therefore being medically
   managed.  Was previously on Aspirin, Toprol-XL, Lipitor, Imdur and
   lisinopril, though he was only taking ASA, Imdur and Toprol.
   - Cont ASA 325mg PO daily, Plavix 75mg daily.
   - Metoprolol 10mg IV Q6hrs
   - Restart lisinopril when tolerated
   - not a good CABG candidate (poor distal bypass points)
   .
   # Dyspnea: Most likely pulmonary edema in the setting of myocardial
   ischemia and hypertensive urgency.  Lung exam much improved this
   morning and is requiring less aggressive vent settings.
   - Cont Lasix gtt, responded well overnight
   - Tolerating lower vent settings with PEEP 5, good oxygenation, will
   continue to wean while following ABGs.
   - decrease sedation to see if RR improves
   - control BP to prevent flash pulm edema during extubation (will not
   extubate today)
   - sputum cultures show 1+ GPC, sputum and blood cultures pending
   - Received one dose of broad spectrum abx in CCU, now holding b/c there
   are not signs of infection.
   .
   # Hypertension: Pressures extremely labile.  On nitro drip, but
   continues to spike to SBP 200 when agitated.
   - uptitrate metoprolol to 50 mg QID
   - Cont Imdur
   - restart lisinopril as tolerated
   - restart amlodipine
   ..
   # PUMP: EF of 20%, mild LV dilation, global hypokinesis and regional
   akinesis on TEE.  BNP is lower than on previous admissions, suggesting
   that he may not have acutely elevated atrial pressures. Overall
   concerning for ischemic worsening of already poor systolic function.
   CXR today looks improved, but still with bilateral pleural effusions.
   - goal - 1L to 1.5 today. Continue Lasix gtt.
   - [**Hospital1 **] electrolytes and daily weights.
   .
   # Loss of Consciousness: Most likely hypoperfusion due to ischemic
   heart failure, although vasovagal also possible
   - Did not tolerate decreased sedation, becomes agitated and combative,
   will try again today
   .
   # RHYTHM: In sinus tachycardia. Will need beta-blocker for prevention
   of post-MI arrhythmias.
   .
   # DM.  Followed by [**Last Name (un) 294**], with poor compliance, though patient was
   apparently still taking his insulin at home.
   - adjust home Humalog 75/25 at 70AM/60PM for improved control
   - FS QACHS with humalog sliding scale.
   - HbA1c 9.9
   .
   # Hyperlipidemia: poorly controlled, was not taking high-dose statin
   prior to admission.
   - Restart Atorvastatin 80mg Qdaily
   .
   # CRI: Cr bumped up in the setting of diuresis and CTA dye load, now
   trending down to 2.4 with baseline of 1.6.
   - Urine lytes show pre-renal etiology in setting of ischemia, urine cx
   negative
   - diurese for now, monitor Cr closely
   - renally dosed medications.
   - avoid Ativan
   .
   #  Acid/Base: Respiratory Acidosis: Due to hypoventilation in the
   setting of respiratory failure.  Improving with ventilation.
   - Trend ABGs.
   #  +Anion Gap Metabolic Acidsosis.  Lactic Acidosis.
   - Resolved upon admission to CCU, monitor
   .
   #  Elevated Troponin: Most likely due to NSTEMI and acute plaque
   rupture.  Other possibilities include hypertensive emergency or
   decompensated CHF.
   .
   # Leukocytosis: Patient has been afebrile and does not report any
   recent sick contacts per family.  Leucocytosis likely a stress response
   to NSTEMI, as it is now trending down.
   - Hold antibiotics unless further evidence of PNA
   - Trend leukocytosis; culture as symptoms localize
   .
   # Thrombocytosis: Likely reactive.
   - Trend, improved on repeat labs
   .
   # Hyponatremia: Most likely fluid overload given flash pulmonary edema,
   poor Lasix compliance and LE edema.
   - Diurese as above, trend
   .
   FEN: Hypervolemic / replete PRN / Diabetic tubefeeds ordered
   .
   ACCESS: 3 peripheral IV
   .
   PROPHYLAXIS:
   -DVT ppx with Bivalirudin
   -Pain management with Fentanyl gtt
   -Bowel regimen with colace / senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-6-15**] 09:17 PM
   18 Gauge - [**2140-6-15**] 10:17 PM
   Arterial Line - [**2140-6-16**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-19 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-18**]:
   - pt refusing to communicate or take medications on and off. Also
   refused CXR this AM.
   - per family (sister, daughter and caregiver) pt is apparently at
   baseline.  Daughter would like to know [**6-19**] when the patient is likely
   to go home.
   - foley d/c'ed
   - arterial line d/c'ed
   - back onto home medications - amlodipine 10mg, Imdur 30mg, metoprolol
   100mg TID
400mg, lisinopril 40mg.  Stopped nitro gtt.
   - Given 5mg IV and 50mg PO lopressor at 22:00 for HTN and tachycardia.
   Allergies:
   Heparin Agents
   Bleeding;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2140-6-18**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-19**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 101 (81 - 113) bpm
   BP: 138/79(93) {105/62(0) - 139/89(94)} mmHg
   RR: 18 (7 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.2 kg (admission): 98.1 kg
   Height: 72 Inch
                  Total In:
                                                                  1,552 mL
                                                                    120 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,012 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    330 mL
   Urine:
                                                                  1,520 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     32 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GENERAL: WDWN, awake,alert but uncooperative.  Difficult to examine
   HEENT: NCAT.
   NECK: Thick, difficult to appreciate JVP w/ beard.
   Unable to assess:
   CARDIAC: (yesterday [**2140-6-18**]) Distant heart sounds. Tachycardic,
   regular, normal S1, S2 with S4 loudest at RUSB. No m/r/g. No thrills.
   LUNGS: (yesterday [**2140-6-18**]) Slight expiratory rhochi, otherwise clear to
   anterior exam.
   ABDOMEN: (yesterday 7/1109) Nontender/nondistended. No HSM. No
   abdominal bruits.
   EXTREMITIES: (yesterday [**2140-6-18**]) No femoral bruits.  Cath site clean
   and dry, fem line site clean and dry
   SKIN: Small, dry 2cm ulcer on right big toe.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Left: Carotid 2+ Femoral 2+ Radial 2+ dopplerable DP
   Labs / Radiology
   489 K/uL
   14.5 g/dL
   127 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   12 mg/dL
   99 mEq/L
   135 mEq/L
   43.4 %
   12.7 K/uL
        [image002.jpg]
   CXR ordered for this AM, refused by patient
                             [**2140-6-16**]  09:59 PM
                             [**2140-6-17**]  03:59 AM
                             [**2140-6-17**]  04:08 AM
                             [**2140-6-17**]  02:21 PM
                             [**2140-6-17**]  02:46 PM
                             [**2140-6-17**]  03:33 PM
                             [**2140-6-17**]  04:51 PM
                             [**2140-6-18**]  04:55 AM
                             [**2140-6-18**]  02:57 PM
                             [**2140-6-19**]  04:57 AM
   WBC
   12.5
   13.8
   16.7
   12.7
   Hct
   37.5
   38.3
   39.9
   43.4
   Plt
   391
   432
   507
   489
   Cr
   2.1
   1.9
   1.8
   1.8
   1.8
   TCO2
   25
   22
   30
   32
   30
   Glucose
   166
   86
   64
   61
   127
   Other labs: PT / PTT / INR:12.4/27.8/1.0, CK / CKMB /
   Troponin-T:274/12/4.46, ALT / AST:22/35, Alk Phos / T Bili:94/0.8,
   Differential-Neuts:79.4 %, Lymph:13.4 %, Mono:6.5 %, Eos:0.4 %,
   D-dimer:2888 ng/mL, Fibrinogen:601 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   59 M with htn, hyperlipidemia, DM, CAD, CHF, CRI, h/o stroke and
   psychiatric issues found to have 3VD which is unvascularized and is nt
   a good CABG candidate and resp. failure s/p successful extubation
   yesterday
   .
   # CORONARIES: Negative ECG but positive enzymes, consistent w/ NSTEMI.
   Cardiac cath w/o intervenable lesions but diffuse 3VD.  Not a good CABG
   candidate b/c of poor distal bypass points.  Therefore being medically
   managed.  Was taking ASA, Imdur and Toprol.
   - Cont ASA 325mg PO daily, Plavix 75mg daily.
   - Change to PO metoprolol as often as patient willing.  Given 50mg in
   AM, try 100mg in PM if pt still in-house.
   - not a good CABG candidate (poor distal bypass points)
   .
   # Dyspnea: Most likely pulmonary edema in the setting of myocardial
   ischemia and hypertensive urgency.  Lung exam much improved s/p
   successful extubation.
   - d/c Lasix, try Lasix 60mg [**Hospital1 **]
   - sputum cultures negative
   .
   # Hypertension: Pressures extremely labile.  On nitro drip, but
   continues to spike to SBP 200 when agitated.
   - Cont Imdur, lisinopril, amlodipine
   ..
   # Leukocytosis: Patient has been afebrile and does not report any
   recent sick contacts per family.  Leucocytosis increased this morning,
   now has low-grade temp.  CXR appeared stable yesterday.
   - Blood and urine cultures.  Urine Analysis w/ reflex.
   - Hold antibiotics unless further evidence of PNA
   - Trend leukocytosis.
   .
   # PUMP: Decompensated systolic HF mild LV dilation, global hypokinesis
   and regional akinesis on TEE. CXR yesterday looked improved, but still
   with bilateral pleural effusions.
   - Goal even to -500cc.  Continue Lasix PO 60mg [**Hospital1 **].
   - [**Hospital1 **] electrolytes and daily weights.
   .
   #Altered mental status: Now clearing sedatives that were given during
   intubation. Pt at baseline per family (daughter)
   .
   # CRI: Cr bumped up in the setting of diuresis and CTA dye load, now
   trending down to 1.8, from 2.4 with baseline of 1.6.
   - Urine lytes show pre-renal etiology in setting of ischemia, urine cx
   negative
   - diurese for now with PO Lasix
   - continue renally dosed medications, avoid Ativan
   .
   # RHYTHM: In sinus tachycardia. Will need beta-blocker for prevention
   of post-MI arrhythmias.
   .
   # DM.  Followed by [**Last Name (un) 294**], with poor compliance, though patient was
   apparently still taking his insulin at home.
   - adjust home Humalog 75/25 at 7AM/6PM for improved control
   - FS QACHS with humalog sliding scale.
   - HbA1c 9.9
   .
   # Hyperlipidemia: poorly controlled, was not taking high-dose statin
   prior to admission.
   - Continue Atorvastatin 80mg Qdaily
   .
   #  Acid/Base: Respiratory Acidosis: Due to hypoventilation in the
   setting of respiratory failure.  Improving with ventilation.
   - Trend ABGs.
   FEN: Hypervolemic / replete PRN / Diabetic tubefeeds ordered
   .
   ACCESS: 3 peripheral IV
   .
   PROPHYLAXIS:
   -DVT ppx pneumoboots (pt has heparin allergy)
   -Pain management with Fentanyl gtt
   -Bowel regimen with colace / senna
   ICU Care
   Nutrition: Regular heart healthy diet.
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-6-15**] 09:17 PM
   18 Gauge - [**2140-6-15**] 10:17 PM
   Arterial Line - [**2140-6-16**] 09:00 AM
   Communication:  w/ daughter and care giver
   Code status: Full code
   Disposition: CCU for now, likely discharge from here to home ASAP